US03971791
Upon boiling a solution of 14.0 g of benzylidenebenzoylacetic acid ethyl ester and 6.5 g of amidinoacetic acid ethyl ester in 150 ml of ethanol for 2 hours, 2-amino-4,6-diphenyl-1,4-dihydropyridine-3,5-dicarboxylic acid ethyl ester of melting point 183°C (ethanol) is obtained. Yield: 48% of theory.

reactant | benzylidenebenzoylacetic acid ethyl ester | 14.0 g | C(C)OC(C(C(C1=CC=CC=C1)=O)=CC1=CC=CC=C1)=O | C18H16O3
reactant | amidinoacetic acid ethyl ester | 6.5 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-amino-4,6-diphenyl-1,4-dihydropyridine-3,5-dicarboxylic acid ethyl ester | Yield: 48% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=CC=C1)C(=O)O)C1=CC=CC=C1)N | C21H20N2O4
